US07781452B2
(1a) 2-Methoxy-3-methylpyridine
A mixture of 2-fluoro-3-methylpyridine (2.34 g, 21.1 mmol) and a 28% sodium methoxide methanol solution (7.72 g, 40 mmol) was stirred for 15 minutes under reflux. After the reaction was completed, water was poured into the reaction mixture, and after neutralized, the reaction mixture was extracted with ethyl acetate, dried over magnesium sulfate, and the solvent was evaporated, thereby yielding the title compound (1.62 g, 13.1 mmol, 62%) as a colorless liquid.

reactant | 2-fluoro-3-methylpyridine | 21.1 mmol, 2.34 g | FC1=NC=CC=C1C | C6H6FN
reactant | sodium methoxide methanol | 40 mmol, 7.72 g | CO.C[O-].[Na+]
solvent | water | O | H2O
product | 2-Methoxy-3-methylpyridine | 13.1 mmol, 1.62 g, 62% | COC1=NC=CC=C1C | C7H9NO
